US04507484
Preparation of 2-(2,4-dichlorophenyl)-3-mercapto-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
2-(1H-1,2,4-triazol-1-ylmethyl)-2-(2,4-dichlorophenyl)oxirane 5 g (0.185M) was heated under mild reflux in thiolacetic acid (CH3COSH) (5 ml) for three hours. The mixture was then cooled and added to a mixture of ice-cooled saturated sodium bicarbonate solution (200 ml) and ethyl acetate (200 ml) and the aqueous layer was separated. The organic layer was washed a further four times with ice cooled saturated sodium bicarbonate solution (200 ml in total), dried (MgSO4) and evaporated to give a red gum which was dissolved in ethanol (20 ml). This solution was added dropwise over 15 minutes to a stirred and ice-cooled solution of sodium ethoxide (3.78 g, 0.0556M) in ethanol (100 ml). After one hour the mixture was poured into 1N hydrochloric acid (100 ml) and this solution was then neutralised by addition of solid sodium bicarbonate. Extraction with methylene chloride (6×50 ml), drying (MgSO4), and evaporation of the combined extracts gave a gum which was chromatographed on silica, eluting with ethyl acetate, to give after one recrystallisation from ethyl acetate/hexane the title compound, yield 2.3 g, m.p., 139°-142.5° C.

reactant | 2-(1H-1,2,4-triazol-1-ylmethyl)-2-(2,4-dichlorophenyl)oxirane | 0.185M, 5 g | N1(N=CN=C1)CC1(OC1)C1=C(C=C(C=C1)Cl)Cl | C11H9Cl2N3O
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | sodium ethoxide | 0.0556M, 3.78 g | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | thiolacetic acid | 5 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-dichlorophenyl)-3-mercapto-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CS)O | C11H11Cl2N3OS
